US07863332B2
d. Preparation of methyl 3-[2-amino-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate
In a manner similar to that of Example (18e), by reaction of 400 mg (10% by mass) of 10% palladium-on-charcoal and 4.0 g (8.8 mmol, 1 eq) of methyl (E)-3-[3′-(3-heptyl-1-methylureido)-2-nitrobiphenyl-4-yl]acrylate in 80 ml of methanol, and after purification by chromatography on silica gel (50/50 heptane/ethyl acetate), 3.81 g of methyl 3-[2-amino-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate are obtained in the form of a colorless oil. Yield=100%

reactant | methyl (E)-3-[3′-(3-heptyl-1-methylureido)-2-nitrobiphenyl-4-yl]acrylate | 8.8 mmol, 4.0 g, 1 eq | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)/C=C/C(=O)OC)[N+](=O)[O-])=O | C25H31N3O5
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium-on-charcoal | 400 mg | [Pd] | Pd
product | methyl 3-[2-amino-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate | Yield=100% | NC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H35N3O3
